US08084395B2
To a solution of 130 mg (0.39 mmoles) of 3-Iodo-1-methyl-2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine in 5 mL of toluene under nitrogen is added a 1 mL of a 2N solution of sodium carbonate, 78 mg (0.4 mmole) of 3-trifluoromethyl phenylboronic acid and 1 mL of ethanol. To the reaction mixture is finally added 24 mg of tetrakistriphenylphosphine palladium before heating at 80° C. for 10 hours. The cooled reaction mixture is then poured into ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. The solid residue after concentration is recrystallized into hexane to afford 70 mg of 1-Methyl-2-pyridin-4-yl-3-(3-trifluoromethyl-phenyl)-1H-pyrrolo[3,2-b]pyridine as white crystals.

reactant | 3-Iodo-1-methyl-2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine | 0.39 mmoles, 130 mg | IC1=C(N(C=2C1=NC=CC2)C)C2=CC=NC=C2 | C13H10IN3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-trifluoromethyl phenylboronic acid | 0.4 mmole, 78 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-Methyl-2-pyridin-4-yl-3-(3-trifluoromethyl-phenyl)-1H-pyrrolo[3,2-b]pyridine | 70 mg | CN1C(=C(C2=NC=CC=C21)C2=CC(=CC=C2)C(F)(F)F)C2=CC=NC=C2 | C20H14F3N3
